US05866560
Under the conditions of Example 23h, 4.58 g of 3-benzyloxy-7α-(5-tosyloxypentyl)-estra-1,3,5(10)-trien-17-one is reacted with 3.17 g of (2S)-2-(4,4,5,5,5-pentafluoropentylthiomethyl)-pyrrolidine, worked up, and the crude product is chromatographed on silica gel with hexane/ethyl acetate. 3.9 g of 3-benzyloxy-7α-{5-[(2S)-2-(4,4,5,5,5-pentafluoropentyl-thiomethyl)-pyrrolidin-1-yl]-pentyl}-estra-1,3,5(10)-trien-17-one is obtained as oil. [α]D22 =+32.5°(c=0.117 in chloroform).

reactant | 3-benzyloxy-7α-(5-tosyloxypentyl)-estra-1,3,5(10)-trien-17-one | 4.58 g | C(C1=CC=CC=C1)OC1=CC=2C[C@H]([C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3C2C=C1)=O)CCCCCOS(=O)(=O)C1=CC=C(C)C=C1 | C37H44O5S
reactant | (2S)-2-(4,4,5,5,5-pentafluoropentylthiomethyl)-pyrrolidine | 3.17 g | FC(CCCSC[C@H]1NCCC1)(C(F)(F)F)F | C10H16F5NS
product | 3-benzyloxy-7α-{5-[(2S)-2-(4,4,5,5,5-pentafluoropentyl-thiomethyl)-pyrrolidin-1-yl]-pentyl}-estra-1,3,5(10)-trien-17-one | 3.9 g | C(C1=CC=CC=C1)OC1=CC=2C[C@H]([C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3C2C=C1)=O)CCCCCN1[C@@H](CCC1)CSCCCC(C(F)(F)F)(F)F | C40H52F5NO2S
